US07435823B2
A solution of iodine (14.84 g, 58.48 mmol) in KI (20% aq, 100 mL) was added to a solution of 6,7-dimethoxyquinolin-4(1H)-one (10.00 g, 48.73 mmol) in 2 N NaOH (aq, 100 mL), and the solution stirred at RT for 17 h. The mixture was acidified with AcOH and the resulting dark purple mixture was filtered and washed with water. The dark purple filter cake was recrystallized from water to afford an off-white suspension. This material was filtered and dried to afford 3-iodo-6,7-dimethoxyquinolin-4(1H)-one as an off-white solid. MS (ESI, pos. ion) m/z: 332.1 (M+H). Mass Calc'd for C11H10INO3: 331.

reactant | iodine | 58.48 mmol, 14.84 g | II | I2
reactant | 6,7-dimethoxyquinolin-4(1H)-one | 48.73 mmol, 10.00 g | COC=1C=C2C(C=CNC2=CC1OC)=O | C11H11NO3
reactant | AcOH | CC(=O)O | C2H4O2
solvent | NaOH | 2 N, 100 mL | [OH-].[Na+]
product | 3-iodo-6,7-dimethoxyquinolin-4(1H)-one | IC1=CNC2=CC(=C(C=C2C1=O)OC)OC | C11H10INO3
